US06730670B2
4-Fluoro-N-(4-methoxy-7-phenyl-benzo[b]thiophen-2-yl)-benzamide
A solution of (4-methoxy-7-phenyl-benzo[b]thiophen-2-yl)-amine (100 mg, 392 mmol) in THF (5 ml) with triethylamine (0.049 ml, 0.9 eq.) and DMAP (5 mg, 0.1 eq) was stirred together at 0° C. under an argon atmosphere. To this was slowly added 4-fluorobenzoyl chloride (0.038 ml, 314 mmol, 0.8 eq.) and the mixture stirred to 20° C. over 2 h. The mixture was then evaporated to dryness and chromatographed over silica gel eluting with a gradient of heptane/EtOAc (6:1 to 2:1). The product fractions were pooled and evaporated to afford the title compound (74 mg, 50% yield) as a yellow solid MS: m/e=378.3 (M+H+).

reactant | (4-methoxy-7-phenyl-benzo[b]thiophen-2-yl)-amine | 392 mmol, 100 mg | COC1=CC=C(C=2SC(=CC21)N)C2=CC=CC=C2 | C15H13NOS
reactant | triethylamine | 0.049 ml, 0.9 eq. | C(C)N(CC)CC | C6H15N
reactant | 4-fluorobenzoyl chloride | 314 mmol, 0.038 ml, 0.8 eq. | FC1=CC=C(C(=O)Cl)C=C1 | C7H4ClFO
solvent | THF | 5 ml | C1CCOC1 | C4H8O
catalyst | DMAP | 5 mg, 0.1 eq | CN(C)C=1C=CN=CC1 | C7H10N2
product | 4-Fluoro-N-(4-methoxy-7-phenyl-benzo[b]thiophen-2-yl)-benzamide | 74 mg, 50% yield | FC1=CC=C(C(=O)NC2=CC3=C(S2)C(=CC=C3OC)C3=CC=CC=C3)C=C1 | C22H16FNO2S
